US05872137
A mixture of 0.50 g of 1-(3-(4-chlorophenylthio)propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene and 20 ml of methylene chloride was stirred under cooling with ice-water, to which 0.26 g of m-chloroperbenzoic acid was added. After stirring at room temperature for 24 hours, the methylene chloride layer was separated, washed successively with saturated aqueous sodium sulfite solution, saturated aqueous sodium hydrogencarbonate solution and saturated saline solution, dried with magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.38 g of 1-(3-(4-chlorophenylsulfinyl)propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene (73% yield), nD24.5 1.5962.

reactant | 1-(3-(4-chlorophenylthio)propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 0.50 g | ClC1=CC=C(C=C1)SCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C18H15Cl5O2S
reactant | m-chloroperbenzoic acid | 0.26 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-(4-chlorophenylsulfinyl)propyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 0.38 g, 73% yield | ClC1=CC=C(C=C1)S(=O)CCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C18H15Cl5O3S
